US07923450B2
a) 6-[1-Dimethylamino-meth-(E)-ylidene]-2-hydroxy-2-pyridin-3-yl-cyclohexanone
2-Hydroxy-2-pyridin-3yl-cyclohexanone (394 mg, 2 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (582 mg) as a brown oil which was used directly in the next step. MS ISP (m/e): 247.2 (100) [(M+H)+].

reactant | 2-Hydroxy-2-pyridin-3yl-cyclohexanone | 2 mmol, 394 mg | OC1(C(CCCC1)=O)C=1C=NC=CC1 | C11H13NO2
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 6-[1-Dimethylamino-meth-(E)-ylidene]-2-hydroxy-2-pyridin-3-yl-cyclohexanone | 582 mg | CN(\C=C\1/CCCC(C1=O)(C=1C=NC=CC1)O)C | C14H18N2O2
